US05128351
3-[[2-[[[4-(hexadecyloxy)phenoxy]acetyl]amino]phenyl]methyl]-5-methyl-thiazolium bromide
A mixture of 1.8 g of N-[2-(bromomethyl)phenyl]-2-[4-(hexadecyloxy)phenoxy]acetamide and 1.59 g of 5-methyl thiazole in 25 ml of toluene is refluxed under argon for 6 hours. The solvent is evaporated to a residue which is stirred with ether and the solid collected by centrifugation, washed with ether and vacuum dried to give 1.7 g of the desired product as an off-white solid, m.p. 121°-124° C.

reactant | N-[2-(bromomethyl)phenyl]-2-[4-(hexadecyloxy)phenoxy]acetamide | 1.8 g | BrCC1=C(C=CC=C1)NC(COC1=CC=C(C=C1)OCCCCCCCCCCCCCCCC)=O | C31H46BrNO3
reactant | 5-methyl thiazole | 1.59 g | CC1=CN=CS1 | C4H5NS
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[[2-[[[4-(hexadecyloxy)phenoxy]acetyl]amino]phenyl]methyl]-5-methyl-thiazolium bromide | 1.7 g | [Br-].C(CCCCCCCCCCCCCCC)OC1=CC=C(OCC(=O)NC2=C(C=CC=C2)C[N+]2=CSC(=C2)C)C=C1 | InChI=1S/C35H50N2O3S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-18-25-39-32-21-23-33(24-22-32)40-28-35(38)36-34-20-17-16-19-31(34)27-37-26-30(2)41-29-37;/h16-17,19-24,26,29H,3-15,18,25,27-28H2,1-2H3;1H
